US06677352B1
An 8-mL amber vial was charged with 2-anilino-5-chloro-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one (72 mg, 0.20 mmol), 4-methoxyphenylboronic acid (36 mg, 0.24 mmol), Pd(OAc)2 (1 mg, 0.02 mmol), Ph3P (5 mg, 0.02 mmol), K2CO3 (110 mg, 0.8 mmol, 2 M), and DME (2 mL). The mixture was heated to 90° C. 2 d. Water was added to the reaction mixture and it was extracted with CH2Cl2. The organic layer was dried over Na2SO4. The residue after concentration in vacuo was triturated with Et2O to provide 2-anilino-5-(4-methoxyphenyl)-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one (54 mg, 63%): LCMS RT: 1.92 min, MH+: 434.5.

reactant | 2-anilino-5-chloro-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one | 0.20 mmol, 72 mg | N(C1=CC=CC=C1)C=1N(C2=CC(=NC(=C2C(C1)=O)Cl)C)C1=CC=CC=C1 | C21H16ClN3O
reactant | 4-methoxyphenylboronic acid | 0.24 mmol, 36 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Ph3P | 0.02 mmol, 5 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | K2CO3 | 0.8 mmol, 2 M, 110 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.02 mmol, 1 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | Water | O | H2O
solvent | DME | 2 mL | COCCOC | C4H10O2
product | 2-anilino-5-(4-methoxyphenyl)-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one | 54 mg, 63% | N(C1=CC=CC=C1)C=1N(C2=CC(=NC(=C2C(C1)=O)C1=CC=C(C=C1)OC)C)C1=CC=CC=C1 | C28H23N3O2
